Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abd pain, fevers/chills, constipation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a ___ with no significant past medical history who
presents as a referral from urgent care with constipation and
ketonuria. 

He reports 3d constipation with associated diffuse abdominal
pain. He tried eating something yesterday but had an episode of
emesis 2hrs later, and has not tried eating again since. 
Endorses
subjective fevers, chills, and sweats at home. Denies any sick
contacts or recent travels. He attempted OTC laxatives at home
and had a small amount of non-bloody, watery stool after. He was
seen at urgent care today where they obtained urine and basic
labs. Patient was discharged with Miralax, decusate and senna,
but was then called from the urgent care to be seen in the ED 
due
to ketones in his urine.

In the ED, initial vital signs were: T 98.2, HR 88, BP 153/92, 
O2
sat 100% RA

Labs were notable for:
WBC 31.2 (86.4% N)
HCO3 21
UA: 3 WBCs, neg nitrites, neg leuk esterase, large blood, 40
ketones

Studies performed include:
CT A&P with contrast:
1. Sigmoid colon diverticulitis. No drainable fluid collection 
or
extraluminal gas.
2. Fat stranding around the decompressed bladder, may relate to
the acute diverticulitis, but correlate with urinalysis to 
assess
for infection. Recommend correlation with urinalysis.

Patient was given:
- 1L NS
- 500 mg IV metronidazole
- 750 mg IV levofloxacin
- 4 mg IV morphine

Vitals on transfer: T 98.5 HR 76 BP 137/54 RR 14 O2 99% RA

Upon arrival to the floor, patient endorses the above history 
and
adds that he has never had issues with constipation, but had an
episode of bloody diarrhea for which he underwent colonoscopy at
___. He believes this showed diverticulosis only. He has been
passing gas and reports that his abdominal pain has improved
since receiving morphine in the ED. 

 
Past Medical History:
PAST MEDICAL HISTORY:
Diverticulosis
Tobacco abuse
Hematuria

 
Social History:
___
Family History:
FAMILY HISTORY:
No family history of IBD or colon cancer. No known family 
history
of MI, CVA, or cancer.
 
Physical Exam:
PHYSICAL EXAM:  
Vitals: 
___ 0739 Temp: 98.0 PO BP: 143/91 HR: 58 RR: 18 O2 sat: 98%
O2 delivery: Ra 
General: Obese, sleeping comfortably, readily roused,
appropriately interactive, in no acute distress. 
HEENT: Normocephalic, PERRL, EOMI, oropharynx clear, MMM. 
Neck: No cervical lymphadenopathy. 
Lungs: Breathing comfortably on room air, clear to auscultation
bilaterally. 
CV: Regular rate and rhythm, no murmurs
GI: Obese, non-distended, soft, minimally tender to palpation in
lower abdomen. No masses or hepatosplenomegaly appreciated 
Ext: No cyanosis or edema. Spatulate-shaped nails, patient
reports they have been that shape since childhood. 
Neuro: Alert, orientedx3. Able to readily discuss recent and
remote details of history. CN II-XII intact. Strength ___ in 
arms
and legs. Sensation intact to light touch in hands and feet. 
 
Pertinent Results:
==============
Admission Labs
==============
___ 02:53PM BLOOD WBC-31.2* RBC-4.98 Hgb-14.1 Hct-42.5 
MCV-85 MCH-28.3 MCHC-33.2 RDW-14.3 RDWSD-44.4 Plt ___
___ 02:53PM BLOOD Neuts-86.4* Lymphs-4.6* Monos-7.7 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-26.94* AbsLymp-1.44 
AbsMono-2.40* AbsEos-0.07 AbsBaso-0.06
___ 02:53PM BLOOD Glucose-95 UreaN-10 Creat-0.9 Na-137 
K-3.8 Cl-98 HCO3-21* AnGap-18
___ 06:25AM BLOOD ALT-6 AST-8 LD(LDH)-159 AlkPhos-66 
TotBili-0.9
___ 06:25AM BLOOD Albumin-3.5 Calcium-8.8 Phos-2.9 Mg-1.8
___ 03:20PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 03:20PM URINE Blood-LG* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-40* Bilirub-SM* Urobiln-4* pH-6.0 Leuks-NEG
___ 03:20PM URINE RBC-61* WBC-3 Bacteri-FEW* Yeast-NONE 
Epi-1

==============
Discharge Labs
==============
___ 06:30AM BLOOD WBC-13.4* RBC-4.24* Hgb-12.1* Hct-36.7* 
MCV-87 MCH-28.5 MCHC-33.0 RDW-14.2 RDWSD-44.9 Plt ___
___ 06:30AM BLOOD Neuts-75.9* Lymphs-11.0* Monos-9.2 
Eos-2.8 Baso-0.5 Im ___ AbsNeut-10.18* AbsLymp-1.48 
AbsMono-1.24* AbsEos-0.38 AbsBaso-0.07
___ 06:30AM BLOOD Glucose-84 UreaN-4* Creat-0.9 Na-141 
K-3.5 Cl-102 HCO3-18* AnGap-21*
___ 06:30AM BLOOD ALT-10 AST-17 AlkPhos-78 TotBili-0.4
___ 06:30AM BLOOD Albumin-3.4* Calcium-8.7 Phos-3.4 Mg-1.9

==============
Microbiology
==============
___ Urine Culture
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT
      WITH SKIN AND/OR GENITAL CONTAMINATION. 
 
___ 3:59 pm BLOOD CULTURE      #2. 
   Blood Culture, Routine (Pending):    No growth to date. 
 
___ 2:30 pm BLOOD CULTURE      #1. 
   Blood Culture, Routine (Pending):    No growth to date. 
 
___ 11:58 am STOOL     CONSISTENCY: WATERY
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic
      strains of C. difficile and detects both C. difficile
      infection (CDI) and asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of
      CDI or carriage. 

==============
Imaging
==============
CT ABDOMEN/PELVIS WITH CONTRAST ___
1. Sigmoid colon diverticulitis.  No drainable fluid collection 
or 
extraluminal gas. 
2. Fat stranding around the decompressed bladder, may relate to 
the acute 
diverticulitis, but correlate with urinalysis to assess for 
infection.  
Recommend correlation with urinalysis. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
=====================
___ yo M with hx of diverticulosis who presents from urgent care 
with ketonuria and complaint of 3d of abd pain, poor PO intake, 
and constipation with fevers/chills, found to have sigmoid 
diverticulitis with significant leukocytosis. Patient responded 
well to medical management and was tolerating PO by discharge. 

=============
ACUTE ISSUES:
=============
# Uncomplicated sigmoid colon diverticulitis
The patient presented with 3d LLQ abdominal pain associated with 
subjective fevers/chills/sweats. Found to have possible sigmoid 
diverticulitis without CT evidence of perforation or abscess. He 
was treated for this diverticulitis as an inpatient given 
significant leukocytosis to 31 on admission. His abdominal exam 
was benign throughout his stay and he remained hemodynamically 
stable. He was initially kept NPO but his diet was advanced to 
regular diet by discharge and tolerated well. He received 
maintenance IV fluids until he was drinking sufficient fluids. 
His pain was well-controlled with just Tylenol while on the 
floor. He was initially started on IV antiobiotics, but 
transitioned to PO ciprofloxacin/flagyl for a 10d course: 
___. Of note, his ___ records were obtained and his 
colonoscopy report from ___ showed extensive diverticulosis and 
6 polyps, 3 of which were adenomas. He was set up with a PCP and 
outpatient GI f/u for colonoscopy. 

# Leukocytosis
The patient had significant leukocytosis to 31 on admission, 
higher than usually expected for diverticulitis. There was no hx 
of diarrhea, he was never toxic-appearing, and he had no other 
clear sources of infection. Cdiff PCR, blood and urine cultures 
were negative. He also reported significant night sweats, but 
these were contemporaneous with his abdominal sx and resolved 
with treatment. His leukocytosis declined rapidly during his 
stay, and was 13.4 on discharge. 

# Ketonuria, fasting ketosis
Patient with 40 ketones on admission, likely in the setting of 
poor PO over days prior to admission. This improved with IVF and 
advancing diet, with reduction in ketones to 10 from 40 on day 
of discharge. Patient with no history of diabetes, fasting 
sugars while in house 80-90, unlikely DKA. Alcoholic ketosis on 
differential, as patient stopped drinking >48 hours prior to 
admission although no recent binging episodes.

# Microsopic hematuria
Etiology unclear. No signs/symptoms of UTI. Patient does have 
punctate renal stone in the interpolar region of the left kidney 
seen on CT. No evidence suggesting glomerular bleeding. Per 
patient he has history of hematuria s/p cystoscopy at ___ in 
___. However, he denies noticing any blood in his urine 
recently. Note that he is age >___ and patient has had history of 
smoking (25 pack years). The patient's ___ cystoscopy report of 
___ was obtained and was unremarkable, the report also 
alludes to CTU with no abnormalities. His urine culture showed 
mixed flora consistent with contamination. The decision on 
whether to arrange new urology f/u was deferred to his new PCP.

# EtOH use
Patient reporting ___ mixed drinks/day for past few months, on 
prior baseline of 1/wk. Reports this is in setting of a new 
relationship. No hx of withdrawal or complications thereof. No 
evidence of withdrawal during his stay. 

# Elevated BP without diagnosis of hypertension 
Note that while inpatient, the patient's SBP ranged into the 
150s; however this was in the setting of diverticulitis. Will 
need to recheck as outpatient once abdominal pain improved.

# Constipation (resolved)
Presenting complaint, but per patient actually had very small 
liquid stools ___ and ___, was passing flatus throughout his 
stay, and had poor PO during this time. There was never signs of 
ileus/obstruction on exam or imaging. Used miralax PRN and was 
having regular BMs by discharge. 

===============
CHRONIC ISSUES:
===============
# Obesity, BMI 42
We note that patient enjoys the finer foods in life, including 
grilled cheese and fries instead of vegetables (does not like to 
eat salads). In this setting he may benefit from further 
discussion of diet and lifestyle modifications as an outpatient.

# Tobacco use. 1ppd, ___ yrs
- Patient offered nicotine patch but declined

===================
TRANSITIONAL ISSUES
===================
# Uncomplicated sigmoid colon diverticulitis
# History of colon polyps (___)
[] Ciprofloxacin 500 mg BID + metronidazole 500 mg PO Q8H x 10 
days ending ___
[] Please help the patient arrange a ___ colonoscopy as an 
outpatient in ___ weeks after episode of diverticulitis

# Leukocytosis
[] Please recheck CBC one week after discharge to ensure 
leukocytosis resolved

# Fasting ketosis
[] Please recheck chem-7 in one week after discharge to make 
sure anion gap has closed

# Microsopic hematuria
[] Please check UA one week after discharge
[] Please consider urology ___ as outpatient

# EtOH use
[] Please counsel patient on cessation of alcohol and connect 
with resources as appropriate

# Elevated BP without diagnosis of hypertension 
[] Please re-check BP at PCP ___ visit

# Obesity
[] Please counsel patient regarding lifestyle interventions

#Code: Full 
#CONTACT: ___
 Relationship: SISTER
 Phone: ___

 
___ on Admission:
None
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H  
2.  MetroNIDAZOLE 500 mg PO Q8H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uncomplicated sigmoid colon diverticulitis
Ketonuria, fasting ketosis
Microsopic hematuria
Elevated BP without diagnosis of hypertension
Obesity
EtOH use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  

Dear Mr. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
You were in the hospital because you had 3 days of abdominal 
pain, fevers/chills, inability to eat or drink, and 
constipation. You went to an urgent care clinic and were told to 
come to the hospital because your lab values were unusual.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
While you were in the hospital your blood and urine were tested. 
These tests showed signs of inflammation and of not eating much 
in the past few days. You got a CT scan of your abdomen which 
showed diverticulitis.  This is a condition in which small 
pouches form in your colon (large intestine) and become inflamed 
or infected. You were given IV fluids and antibiotics to help 
you stay hydrated and treat this infection. By the time you were 
discharged you were eating, drinking, and taking antibiotics by 
mouth. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
You should continue to take both of the antibiotics you were 
prescribed (ciprofloxacin and metronidazole) for another 7 days. 
It is also important that you ___ with your new PCP as 
well as with the GI (gastroenterology) doctor. We have already 
made the appointments for you.

We wish you the best!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___